US07488353B2
Step 1: Preparation of 1-methyl-1H-imidazol-2-carboxaldehyde ((2E)-3-methyl-1,3-benzothiazol-2(3H)-ylidene) hydrazone
As in Example 1, 1.27 g (5.45 mmol) of 2,3-dihydro-3-methyl-2-benzothiazolone hydra-zone hydrochloride and 0.60 g (5.45 mmol) of 1-methyl-2-imidazolecarboxaldehyde in 40 mL of a mixture of HCl and ethanol (1:2) were stirred at room temperature for 30 minutes. The mixture was then rendered slightly alkaline with 2N sodium hydroxide solution. The precipitated product was suction-filtered off, washed with water and dried under vacuum.

reactant | 2,3-dihydro-3-methyl-2-benzothiazolone hydra-zone hydrochloride | 5.45 mmol, 1.27 g | Cl.CN1C(SC2=C1C=CC=C2)=NN
reactant | 1-methyl-2-imidazolecarboxaldehyde | 5.45 mmol, 0.60 g | CN1C(=NC=C1)C=O | C5H6N2O
reactant | HCl | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-1H-imidazol-2-carboxaldehyde ((2E)-3-methyl-1,3-benzothiazol-2(3H)-ylidene) hydrazone | CN1/C(/SC2=C1C=CC=C2)=N\N=CC=2N(C=CN2)C | C13H13N5S
